US09260408B2
tert-Butyl (trans)-4-(5-bromopyridin-3-yloxy)cyclohexylcarbamate
In analogy to the procedure described for the preparation of intermediate A-7, 5-bromopyridin-3-ol was reacted with (cis)-(4-hydroxy-cyclohexyl)-carbamic acid tert-butyl ester in presence of di-(4-chlorobenzyl)azodicarboxylate and triphenylphosphine to give the title compound as a colorless solid. MS: 371.3 and 373.3 (M+H+).

reactant | 5-bromopyridin-3-ol | BrC=1C=C(C=NC1)O | C5H4BrNO
reactant | (cis)-(4-hydroxy-cyclohexyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1CC[C@@H](CC1)O)=O | C11H21NO3
reactant | di-(4-chlorobenzyl)azodicarboxylate | C1=CC(=CC=C1COC(=O)/N=N\C(=O)OCC2=CC=C(C=C2)Cl)Cl | C16H12Cl2N2O4
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | tert-Butyl (trans)-4-(5-bromopyridin-3-yloxy)cyclohexylcarbamate | BrC=1C=C(C=NC1)O[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C16H23BrN2O3
